US03984465
By following the procedure described in Example 5, Step B, using as the reactants 2',3'-dichloro-4'-methoxy-2-methylbutyrophenone (26 g., 0.10 mole), acetic acid (75 ml.) and bromine (16 g., 0.10 mole), there is obtained 2-bromo-2-methyl-2',3'-dichloro-4'-methoxybutyrophenone.

reactant | 2',3'-dichloro-4'-methoxy-2-methylbutyrophenone | 0.10 mole, 26 g | ClC1=C(C=CC(=C1Cl)OC)C(C(CC)C)=O | C12H14Cl2O2
reactant | bromine | 0.10 mole, 16 g | BrBr | Br2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-2-methyl-2',3'-dichloro-4'-methoxybutyrophenone | BrC(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)(CC)C | C12H13BrCl2O2
